US05326780
1-Benzyloxymethyl-2-bromo-4-methyl-5-phenylthioimidazole (I-20)
In 5 ml of dry tetrahydrofuran is dissolved 300 mg of 1-benzyloxymethyl-4-methyl-5-phenylthioimidazole (I-3) (1 mmol) obtained in Example 3, and the resulting solution is chilled at -78° C. To the solution is added dropwise 1.64M solution of n-butyl lithium in 0.71 ml of hexane (1.16 mmol) and the mixture allowed to stand for 10 minutes, when 185 mg of bromine (1.16 mmol) is added thereto. Fifteen minutes later, the mixture is poured onto ice water. The mixture is neutralized with sodium bicarbonate and extracted with ethyl ether. The extract is washed with water, dried over sodium sulfate, filtered and the filtrate is concentrated. The crude product is chromatographed on a column of silica gel, eluting with ethyl acetate/n-hexane (1:2) to give 360 mg of the product (I-20; mp. 55° C.). Yield, 96%.

reactant | 1-benzyloxymethyl-4-methyl-5-phenylthioimidazole | 1 mmol, 300 mg | C(C1=CC=CC=C1)OCN1C=NC(=C1SC1=CC=CC=C1)C | C18H18N2OS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 1.16 mmol, 0.71 ml | CCCCCC | C6H14
reactant | bromine | 1.16 mmol, 185 mg | BrBr | Br2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-Benzyloxymethyl-2-bromo-4-methyl-5-phenylthioimidazole | 360 mg | C(C1=CC=CC=C1)OCN1C(=NC(=C1SC1=CC=CC=C1)C)Br | C18H17BrN2OS
